US09428490B2
(Z)-tert-Butyl(1-(3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acryloyl)-3-fluoroazetidin-3-yl)methylcarbamate (0.15 g, 0.279 mmol) was dissolved in DCM (10 mL) and TFA (0.1 mL) was added at 0° C. The reaction mixture was stirred at rt for 4 h and concentrated under reduced pressure to afford 0.5 g of crude product, which was purified by chromatography (0-5% methanol in DCM) to afford 15 mg of (Z)-1-(3-(aminomethyl)-3-fluoroazetidin-1-yl)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)prop-2-en-1-one (Yield 15%). 1H NMR (400 MHz, CDCl3, ppm) δ=9.4 (s, 1H); 8.54 (s, 2H); 8.32 (s, 1H); 8.13 (s, 3H); 7.49-7.46 (d, J=10 Hz, 1H); 6.0-5.97 (d, J=10 Hz, 1H); 4.41-4.06 (m, 4H); 3.49-3.36 (m, 3H). LCMS calcd for C17H15F7N5O [M+H]+ 438.3. found: 438.19 (retention time 2.298 min).

reactant | (Z)-tert-Butyl(1-(3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acryloyl)-3-fluoroazetidin-3-yl)methylcarbamate | 0.279 mmol, 0.15 g | C(C)(C)(C)OC(NCC1(CN(C1)C(\C=C/N1N=C(N=C1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)F)=O | C22H22F7N5O3
reactant | TFA | 0.1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (Z)-1-(3-(aminomethyl)-3-fluoroazetidin-1-yl)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)prop-2-en-1-one | 15 mg, Yield 15% | NCC1(CN(C1)C(\C=C/N1N=C(N=C1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)F | C17H14F7N5O
